US07923450B2
b) [8-(3,4-Dichloro-phenyl)-5,6,7,8-tetrahydro-quinazolin-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine
The title compound was prepared from 6-[1-dimethylamino-methylidene]-2-(3,4-dichloro-phenyl)-cyclohexanone (119 mg, 0.40 mmol) and N-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-guanidine dinitrate (148 mg, 0.40 mmol) using in analogous manner the procedure described in example 45b). Obtained as an off-white solid (92 mg, 48%). MS ISP (m/e): 480.0 [(M+H)+]. mp 167-169° C.

reactant | 6-[1-dimethylamino-methylidene]-2-(3,4-dichloro-phenyl)-cyclohexanone | 0.40 mmol, 119 mg | CN(C=C1CCCC(C1=O)C1=CC(=C(C=C1)Cl)Cl)C | C15H17Cl2NO
reactant | N-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-guanidine dinitrate | 0.40 mmol, 148 mg | [N+](=O)(O)[O-].[N+](=O)(O)[O-].COC=1C=C(C=CC1N1C=NC(=C1)C)NC(=N)N
product | [8-(3,4-Dichloro-phenyl)-5,6,7,8-tetrahydro-quinazolin-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine | ClC=1C=C(C=CC1Cl)C1CCCC=2C=NC(=NC12)NC1=CC(=C(C=C1)N1C=NC(=C1)C)OC | C25H23Cl2N5O
